US04007189
8-tert-Butyl-6,7-dihydro-5,7-dimethyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine Hydrochloride
A mixture of 2.4g of 7-chloro-6-(2-chloropropyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 0.9g of tert-butylamine, 1.8g of sodium carbonate and 20 ml of ethanol was stirred for 3 hours at room temperature and then refluxed for 5 hours. The hot reaction mixture was filtered, the filtrate was concentrated under reduced pressure and the residue was purified by a column chromatography of alumina. To an oily substance thus obtained was added a solution of hydrogen chloride-ethanol and the crystals precipitated thereby were collected by filtration.

reactant | 7-chloro-6-(2-chloropropyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | 2.4g | ClC1=C(C(=NC=2N1N=CN2)C)CC(C)Cl | C9H10Cl2N4
reactant | tert-butylamine | 0.9g | C(C)(C)(C)N | C4H11N
reactant | sodium carbonate | 1.8g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride ethanol | Cl.C(C)O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-tert-Butyl-6,7-dihydro-5,7-dimethyl-8H-pyrrolo[3,2-e]-s-triazolo[1,5-a]pyrimidine Hydrochloride | Cl.C(C)(C)(C)N1C(CC=2C(=NC=3N(C21)N=CN3)C)C | InChI=1S/C13H19N5.ClH/c1-8-6-10-9(2)16-12-14-7-15-18(12)11(10)17(8)13(3,4)5;/h7-8H,6H2,1-5H3;1H
